US07511050B2
Step B: Methyl 3-(5-phenyl-1,3,4-oxadiazol-2-yl)propanoate
Thionyl chloride (0.34 mL, 4.7 mmol) was added to the mixture of methyl 4-(2-benzoylhydrazino)-4-oxobutanoate (900 mg, 4 mmol), Pyridine (0.87 mL, 0.011 mol) in tetrahydrofuran (20 mL) at room temperature. After stirring for 3 hours, the reaction mixture was concentrated. The residue was mixed with toluene (20 mL) and refluxed overnight. The reaction was diluted with water and extracted with ethyl acetate three times. The combined organic layers were dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography to yield the desired product (600 mg, 72%). LCMS calculated for C12H13N2O3(M+H): 233.1; found: 233.1.

reactant | Thionyl chloride | 4.7 mmol, 0.34 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 4-(2-benzoylhydrazino)-4-oxobutanoate | 4 mmol, 900 mg | C(C1=CC=CC=C1)(=O)NNC(CCC(=O)OC)=O | C12H14N2O4
reactant | Pyridine | 0.011 mol, 0.87 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Methyl 3-(5-phenyl-1,3,4-oxadiazol-2-yl)propanoate | 600 mg, 72% | C1(=CC=CC=C1)C1=NN=C(O1)CCC(=O)OC | C12H12N2O3
